US04314061
3,6-bis(2-dimethylaminoethoxy)acridine-cobalt complex
A suspension of 3,6-bis(2-dimethylaminoethoxy)acridine trihydrochloride and one equivalent of cobalt nitrate in ethanol is refluxed for 2 hours. The solid is collected giving the desired 1:1 complex.

reactant | 3,6-bis(2-dimethylaminoethoxy)acridine trihydrochloride | Cl.Cl.Cl.CN(CCOC=1C=CC2=CC3=CC=C(C=C3N=C2C1)OCCN(C)C)C
reactant | cobalt nitrate | one equivalent | [N+](=O)([O-])[O-].[Co+2].[N+](=O)([O-])[O-]
solvent | ethanol | C(C)O | C2H6O
product | 3,6-bis(2-dimethylaminoethoxy)acridine cobalt | CN(CCOC=1C=CC2=CC3=CC=C(C=C3N=C2C1)OCCN(C)C)C.[Co] | InChI=1S/C21H27N3O2.Co/c1-23(2)9-11-25-18-7-5-16-13-17-6-8-19(26-12-10-24(3)4)15-21(17)22-20(16)14-18;/h5-8,13-15H,9-12H2,1-4H3;
